US05527799
Step 4: Preparation of N-t-butyl-4-(1,1-dimethylethoxycarbonylamino)piperazine-2(S)-carboxamide
To 1.20g (2.86 mmol) of N-t-butyl-4-(1,1-dimethylethoxycarbonylamino)-1-(phenylmethylcarbonylamino)piperazine-2(S)-carboxamide and 1.1g (0.086 mmol) of 10% Pd/C was added 15 mL of methanol. The vessel was charged with hydrogen and the reaction stirred for 2 hours, filtered through celite and washed with ethanol. The solvents were removed in vacuo to provide the title product as a foam.

reactant | N-t-butyl-4-(1,1-dimethylethoxycarbonylamino)-1-(phenylmethylcarbonylamino)piperazine-2(S)-carboxamide | 2.86 mmol, 1.20g | C(C)(C)(C)NC(=O)[C@H]1N(CCN(C1)NC(=O)OC(C)(C)C)NC(=O)CC1=CC=CC=C1 | C22H35N5O4
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.086 mmol, 1.1g | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | N-t-butyl-4-(1,1-dimethylethoxycarbonylamino)piperazine-2(S)-carboxamide | C(C)(C)(C)NC(=O)[C@H]1NCCN(C1)NC(=O)OC(C)(C)C | C14H28N4O3
